US06803476B2
39.52 g (0.195 mol) chloropentafluorobenzene is weighed to a 1000 mL vessel and 250 mL Et2O is added. The vessel is cooled down to −70° C. and 150 mL (0.195 mol) of sec-BuLi (1.3 M) is added dropwise during one hour. The temperature of the solution is kept below −50° C. all the time. The solution is stirred for 30 minutes and 62.54 g (0.195 mol) of diethoxychloropentafluorophenylsilane in Et2O (100 mL) is added in small portions. The solution is stirred for over night allowing it to warm up to room temperature. Formed clear solution is filtered and evaporated to dryness to result di(pentafluorophenyl)diethoxysilane, (C6F5)2Si(OEt)2.

reactant | chloropentafluorobenzene | 0.195 mol, 39.52 g | ClC1=C(C(=C(C(=C1F)F)F)F)F | C6ClF5
reactant | sec-BuLi | 0.195 mol, 1.3 M, 150 mL | [Li]C(C)CC
reactant | diethoxychloropentafluorophenylsilane | 0.195 mol, 62.54 g | C(C)O[Si](C1=C(C(=C(C(=C1F)F)F)F)F)(Cl)OCC | C10H10ClF5O2Si
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | di(pentafluorophenyl)diethoxysilane | FC1=C(C(=C(C(=C1[Si](OCC)(OCC)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C16H10F10O2Si
